US06723724B2
Preparation of 1,2-Dimethoxy-4-(5-{3-[4-(2-methoxyphenyl)piperazinyl]propyl}isoxazol-3-yl)benzene
About 2 min after dissolving 3-[3-(3,4-dimethoxyphenyl)isoxazol-5-yl]propanal (10 mg, 0.04 mmol) and 1-(2-methoxyphenyl)piperazine (7.4 mg, 0.04 mmol) in 2 mL of dry methylene chloride, were added NaBH(OAc)3 (24 mg, 0.12 mmol) and molecular sieves (5 beads). The reaction mixture was reacted for 22.6 hr and followed the same processes as in Example 1 to obtain 18.9 mg (100%) of the target compound.

reactant | 3-[3-(3,4-dimethoxyphenyl)isoxazol-5-yl]propanal | 0.04 mmol, 10 mg | COC=1C=C(C=CC1OC)C1=NOC(=C1)CCC=O | C14H15NO4
reactant | 1-(2-methoxyphenyl)piperazine | 0.04 mmol, 7.4 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | NaBH(OAc)3 | 0.12 mmol, 24 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 1,2-Dimethoxy-4-(5-{3-[4-(2-methoxyphenyl)piperazinyl]propyl}isoxazol-3-yl)benzene | 18.9 mg, 100% | COC1=C(C=C(C=C1)C1=NOC(=C1)CCCN1CCN(CC1)C1=C(C=CC=C1)OC)OC | C25H31N3O4
